US07622471B2
[1-(6-Methoxy-3-pyridyl)-5-phenylpyrazol-3-yl]methyl methanesulfonate
[1-(6-Methoxy-3-pyridyl)-5-phenylpyrazol-3-yl]methanol (112 mg) obtained from Referential Example 75 was dissolved in methylene chloride (4 mL). To the solution, triethylamine (61 μL) and methanesulfonyl chloride (34 μL) were added at room temperature, followed by stirring for 15 minutes. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, to thereby give the title compound as an oily product (13.8 mg, 96%).

reactant | [1-(6-Methoxy-3-pyridyl)-5-phenylpyrazol-3-yl]methanol | 112 mg | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)CO | C16H15N3O2
reactant | triethylamine | 61 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 34 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | [1-(6-Methoxy-3-pyridyl)-5-phenylpyrazol-3-yl]methyl methanesulfonate | CS(=O)(=O)OCC1=NN(C(=C1)C1=CC=CC=C1)C=1C=NC(=CC1)OC | C17H17N3O4S
